US09216173B2
To a solution of 2-amino-N-{6-cyano-5-[(4,6-dimethylpyridin-2-yl)-amino]pyridin-3-yl}ethanesulfonamide (78 mg, 0.23 mmol) in DMSO (1.8 mL) was added potassium hydroxide (63 mg, 1.1 mmol) and hydrogen peroxide (35% w/w in water, 0.20 mL, 2.3 mmol). The reaction mixture was stirred for 1 hour. The reaction mixture was filtered and the filtrate directly purified by reverse phase HPLC to afford 5-{[(2-aminoethyl)sulfonyl]amino}-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide. MS ESI calc'd. for C15H21N6O3S [M+H]+ 365. found 365. 1H NMR (500 MHz, DMSO-d6) δ 11.33 (s, 1H), 8.45 (d, J=2.3 Hz, 1H), 7.80 (s, 1H), 7.46 (d, J=2.3 Hz, 1H), 7.12 (s, 1H), 6.51 (s, 1H), 6.47 (s, 1H), 2.92 (t, J=6.1 Hz, 2H), 2.89-2.81 (m, 2H), 2.32 (s, 3H), 2.18 (s, 3H).

reactant | 2-amino-N-{6-cyano-5-[(4,6-dimethylpyridin-2-yl)-amino]pyridin-3-yl}ethanesulfonamide | 0.23 mmol, 78 mg | NCCS(=O)(=O)NC=1C=NC(=C(C1)NC1=NC(=CC(=C1)C)C)C#N | C15H18N6O2S
reactant | potassium hydroxide | 1.1 mmol, 63 mg | [OH-].[K+]
reactant | hydrogen peroxide | 2.3 mmol, 0.20 mL | OO | H2O2
solvent | DMSO | 1.8 mL | CS(=O)C | C2H6OS
product | 5-{[(2-aminoethyl)sulfonyl]amino}-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide | NCCS(=O)(=O)NC=1C=C(C(=NC1)C(=O)N)NC1=NC(=CC(=C1)C)C | C15H20N6O3S
